US07947684B2
D. 4-Chloro-2-piperidin-4-yl-1H-pyrrolo[3,2-c]pyridine
n-Butyllithium (3.36 mL of 2.5M in hexanes, 8.4 mmol) was added dropwise to a stirring solution of (2-chloro-3-methylpyridin-4-yl)carbamic acid tert-butyl ester (0.971 g, 4 mmol) in THF (50 mL) at −78° C., under nitrogen. Warmed the reaction mixture to −20° C. for 15 minutes, before cooling back to −78° C. and adding a solution of 4-(methoxymethylcarbamoyl)piperidine-1-carboxylic acid tert-butyl ester (1.089 g, 4 mmol) in THF (10 mL). Warmed the reaction slowly to room temperature over 2 hours, and quenched with 1N HCl (50 mL). Extracted into ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate, and dried over magnesium sulfate. Flash column chromatography gave a 1:1 mixture, by NMR, of the ring open and ring closed tautomers of the required intermediate {4-[(tert-butoxycarbonylamino-2-chloropyridin-3-yl)acetyl]piperidine-1-carboxylic acid tert-butyl ester and 2-(1-tert-butoxycarbonylpiperidin-4-yl)-4-chloro-2-hydroxy-2,3-dihydropyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester}. This material (845 mg, 1.88 mmol) was dissolved in methylene chloride (40 mL) and stirred vigorously at room temperature during the dropwise addition of trifluoroacetic acid (4 mL). After 2 hours the reaction mixture was concentrated to dryness, and flash column chromatographed on silica gel with ammonium hydroxide/methylene chloride/methanol to give the pure free base product as a white powder (420 mg, 1.76 mmol). 1H NMR (d4-MeOH) δ 7.87 (d, 1H), 7.31 (d, 1H), 6.39 (s, 1H), 3.52-3.45 (m, 2H), 3.20-3.09 (m, 3H), 2.36-2.25 (m, 2H), 2.04-1.88 (m, 2H). ESI MS (M+1)+: 236, 238 (Cl).

reactant | n-Butyllithium | 8.4 mmol, 2.5M, 3.36 mL | C(CCC)[Li]
reactant | (2-chloro-3-methylpyridin-4-yl)carbamic acid tert-butyl ester | 4 mmol, 0.971 g | C(C)(C)(C)OC(NC1=C(C(=NC=C1)Cl)C)=O | C11H15ClN2O2
reactant | 4-(methoxymethylcarbamoyl)piperidine-1-carboxylic acid tert-butyl ester | 4 mmol, 1.089 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NCOC)=O | C13H24N2O4
reactant | 4-[(tert-butoxycarbonylamino-2-chloropyridin-3-yl)acetyl]piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC=1C(=NC=CC1NC(=O)OC(C)(C)C)Cl)=O | C22H32ClN3O5
reactant | 2-(1-tert-butoxycarbonylpiperidin-4-yl)-4-chloro-2-hydroxy-2,3-dihydropyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CC=2C(=NC=CC21)Cl)(O)C2CCN(CC2)C(=O)OC(C)(C)C | C22H32ClN3O5
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-piperidin-4-yl-1H-pyrrolo[3,2-c]pyridine | 1.76 mmol, 420 mg | ClC1=NC=CC2=C1C=C(N2)C2CCNCC2 | C12H14ClN3
